US03931205
A mixture of 2.9 g of 2-chloro-2-(5H-[1]benzopyrano[2,3-b]pyridin-7-yl)propionic acid, 40 ml of 0.5 N aqueous sodium hydroxide solution and 1 g of Raney nickel is stirred in a hydrogen stream at ordinary pressure and temperature, until absorption of 230 ml of hydrogen is attained. The RAney nickel is then filtered off, and the filtrate is neutralized with hydrochloric acid. The crystalline precipitate is filtered off, washed with water, and recrystallized from aqueous dioxane to give 1.5 g of 2-(5H-[1]benzopyrano-[2,3-b]pyridin-7-yl)propionic acid melting at 183°-184°C.

reactant | 2-chloro-2-(5H-[1]benzopyrano[2,3-b]pyridin-7-yl)propionic acid | 2.9 g | ClC(C(=O)O)(C)C=1C=CC2=C(CC=3C(=NC=CC3)O2)C1 | C15H12ClNO3
reactant | sodium hydroxide | 0.5 N, 40 ml | [OH-].[Na+]
catalyst | Raney nickel | 1 g | [Ni] | Ni
solvent | hydrogen | 230 ml | [H][H] | H2
product | 2-(5H-[1]benzopyrano-[2,3-b]pyridin-7-yl)propionic acid | 1.5 g | N1=C2C(=CC=C1)CC1=C(O2)C=CC(=C1)C(C(=O)O)C | C15H13NO3
